US09334279B2
To a 2 dram vial equipped with a stir bar was added 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine (50 mg, 0.18 mmol), 2-(tributylstannyl)pyridine (65 mg, 0.18 mmol), CuI (8 mg, 0.04 mmol), CsF (81 mg, 0.53 mmol), and Pd(PPh3)4 (10 mg, 8.9 μmol). The vial was capped and then placed under N2 atmosphere. To the vial was added DMF (1 mL). The vial was placed in a 80° C. heating block with stirring for 1 h. The mixture was allowed to cool to room temperature. The vial was opened and to the reaction was added 2-(tributylstannyl)pyridine (65 mg, 0.18 mmol) and Pd(PPh3)4 (10 mg, 8.9 μmol). The vial was placed under N2 atmosphere and then returned to the 80° C. heating block with stirring for 1 h. The mixture was cooled to room temperature and then adsorbed onto diatomaceous earth (Celite®). The resulting powder was subjected to C18 chromatography (water:MeOH w/0.1% TFA) to afford 4-chloro-6-(4-isopropoxyphenyl)-2,2′-bipyridine as an amber solid. This material was carried forward into step 2.

reactant | 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine | 0.18 mmol, 50 mg | ClC1=NC(=CC(=C1)Cl)C1=CC=C(C=C1)OC(C)C | C14H13Cl2NO
reactant | 2-(tributylstannyl)pyridine | 0.18 mmol, 65 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | CsF | 0.53 mmol, 81 mg | [F-].[Cs+]
reactant | 2-(tributylstannyl)pyridine | 0.18 mmol, 65 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | CuI | 0.04 mmol, 8 mg | [Cu]I
catalyst | Pd(PPh3)4 | 8.9 μmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 8.9 μmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-chloro-6-(4-isopropoxyphenyl)-2,2′-bipyridine | ClC1=CC(=NC(=C1)C1=CC=C(C=C1)OC(C)C)C1=NC=CC=C1 | C19H17ClN2O
